US07476399B2
5-Pyridin-2-yl-thiophene-2-carboxylic acid 2,4-dimethoxy-benzylamide
Prepared in a similar manner to example 4 using 5-pyridin-2-yl-thiophene-2-carboxylic acid and 2,4-dimethoxy-benzylamine. MS (M+H, 355.2).

reactant | 5-pyridin-2-yl-thiophene-2-carboxylic acid | N1=C(C=CC=C1)C1=CC=C(S1)C(=O)O | C10H7NO2S
reactant | 2,4-dimethoxy-benzylamine | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
product | 5-Pyridin-2-yl-thiophene-2-carboxylic acid 2,4-dimethoxy-benzylamide | COC1=C(CNC(=O)C=2SC(=CC2)C2=NC=CC=C2)C=CC(=C1)OC | C19H18N2O3S
